US08633237B2
(S)-N-(5-(2-cyanobenzyloxy)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide
A mixture of (S)-N-(5-hydroxy-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide (0.098 mmol, 25 mg) and NaH (0.196 mmol, 4.70 mg) in DMF (1 mL) was stirred at room temp for 15 min. 2-(bromomethyl)benzonitrile (0.098 mmol, 19.20 mg) in DMF (1 mL) was added and the reaction mixture heated at 120° C. for 600 s in a Smith Synthesiser microwave. The reaction mixture was filtered through a Whatman filter and purified by preparative HPLC to give desired product (17.8 mg, 49.1%). MS (ESI): m/z [M−H]− 369.2

reactant | (S)-N-(5-hydroxy-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 0.098 mmol, 25 mg | OC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C | C12H17NO3S
reactant | NaH | 0.196 mmol, 4.70 mg | [H-].[Na+]
reactant | 2-(bromomethyl)benzonitrile | 0.098 mmol, 19.20 mg | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (S)-N-(5-(2-cyanobenzyloxy)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | 17.8 mg, 49.1% | C(#N)C1=C(COC=2C=C3C[C@H](CC3=CC2)NS(=O)(=O)C(C)C)C=CC=C1 | C20H22N2O3S
